US08895769B2
A suspension of benzyl 4-nitro-3-(dimethyl-n-octylsilyl)butanoate (220 mg, 0.560 mmol) and palladium hydroxide (20% on carbon, wetted with ca. 50% water, 44 mg) in methanol (2 ml) was subjected to catalytic reduction under a hydrogen atmosphere [0.25 MPa (gauge pressure)] for 48 hours. After the suspension was filtered through Celite, and the solvent was evaporated, the residue was washed with water and recrystallized to obtain 4-amino-3-(dimethyl-n-octylsilyl)butanoic acid mentioned in the title.

reactant | benzyl 4-nitro-3-(dimethyl-n-octylsilyl)butanoate | 0.560 mmol, 220 mg | [N+](=O)([O-])CC(CC(=O)OCC1=CC=CC=C1)[Si](CCCCCCCC)(C)C | C21H35NO4Si
solvent | methanol | 2 ml | CO | CH4O
catalyst | palladium hydroxide | 44 mg | [OH-].[Pd+2].[OH-]
product | 4-amino-3-(dimethyl-n-octylsilyl)butanoic acid | NCC(CC(=O)O)[Si](CCCCCCCC)(C)C | C14H31NO2Si
